US07790835B2
Preparation of 3,6-Epoxy-1,2,3,6-tetrahydrophthalimide (ETPI)
A mixture of maleimide (Sigma-Aldrich, St. Louis Mo.; 2.0 g, 0.0206 moles) and furan (Sigma-Aldrich, St. Louis Mo.; 7.49 mL, 0.103 moles) in anhydrous ethyl ether (50 mL) was stirred for 70 hours at room temperature under an argon atmosphere. A white precipitate formed during the reaction and was filtered off and dried under reduced pressure giving 1.57 g of white crystals. NM (d6-DMSO): Mixture of exo- and endo-isomers (37:63) of ETPI: Exo-3,6-Epoxy-1,2,3,6-tetrahydrophthalimide: 2.85 ppm (s, —CH, 2H), 5.25 ppm (s, —CH, 1H), 6.55 ppm (s, —CH═CH—, 2H), Endo-3,6-Epoxy-1,2,3,6-tetrahydrophthalimide: 3.48 ppm (s, —CH, 2H), 5.11 ppm (s, —CH, 2H), 6.49 ppm (s, —CH═CH, 2H).

reactant | maleimide | 0.0206 moles, 2.0 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | furan | 0.103 moles, 7.49 mL | O1C=CC=C1 | C4H4O
solvent | ethyl ether | 50 mL | C(C)OCC | C4H10O
product | 3,6-Epoxy-1,2,3,6-tetrahydrophthalimide | 1.57 g | O1C2C3C(C(=O)NC3=O)C1C=C2 | C8H7NO3
